US05834506
3-[2-(4-Benzyloxycarbonylamino-phenyl)-ethyl]-3-hydroxy-4-methyl-pentanoic acid benzyl ester
A solution of 21.9 mL (156 mmol) of diisopropylamine in dry THF (100 mL) was cooled to -40° C. under nitrogen, treated dropwise with 125 mL of 1.2M n-BuLi (150 mmol), and stirred for 30 minutes. To this solution was added a solution of 22.5 g (150 mmol) of benzyl acetate in dry THF (70 mL). The mixture was stirred at -40° C. for 45 minutes and then treated with a solution of 16.2 g (50 mmol) of [4-(4-methyl-3-oxo-pentyl)-phenyl]-carbamic acid benzyl ester (prepared in Example HHHHH) at a rapid, dropwise rate. When addition was complete, the reaction mixture was stirred at -40° C. for 30 minutes. Acetic acid (50 mL) was added, and the mixture was warmed to room temperature. EtOAc and H2O were added. The organic layer was separated, washed with brine, and dried (MgSO4). Concentration gave a residue which was chromatographed on silica gel, eluting with EtOAc:hexane (40:60), to give the title compound. 1H NMR (CDCl3) δ 0.88-0.91 (t, 6 H), 1.65-1.75 (m, 2 H), 1.85-1.89 (m, 1 H), 2.46-2.61 (m, 4 H), 3.52 (s, 1 H), 5.11 (s, 2 H), 5.16 (s, 2 H), 6.55 (br s, 1 H), 7.02 (d, 2 H), 7.24-7.38 (m, 12 H).

reactant | diisopropylamine | 156 mmol, 21.9 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 150 mmol, 1.2M, 125 mL | [Li]CCCC
reactant | benzyl acetate | 150 mmol, 22.5 g | C(C)(=O)OCC1=CC=CC=C1 | C9H10O2
reactant | [4-(4-methyl-3-oxo-pentyl)-phenyl]-carbamic acid benzyl ester | 50 mmol, 16.2 g | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)CCC(C(C)C)=O)=O | C20H23NO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 3-[2-(4-Benzyloxycarbonylamino-phenyl)-ethyl]-3-hydroxy-4-methyl-pentanoic acid benzyl ester | C(C1=CC=CC=C1)OC(CC(C(C)C)(O)CCC1=CC=C(C=C1)NC(=O)OCC1=CC=CC=C1)=O | C29H33NO5
